Ideal Schmitt RC oscillator
.param R=3000 C=2e-10
Vdd supply 0 3.3
Rpull supply state 1k
S1 state 0 cap 0 schmitt OFF
.model schmitt SW(VT=1.35 VH=0.25 RON=0.001 ROFF=1e9)
Ebuffer out 0 state 0 1
Rtiming out cap {R}
Csensor cap 0 {C} IC=0
.options reltol=1e-5 abstol=1e-12 vntol=1e-7
.tran 1e-09 20u 0 1e-09 UIC
.control
run
meas tran t1 when v(cap)=1.35 rise=5
meas tran t2 when v(cap)=1.35 rise=15
let frequency=10/(t2-t1)
print frequency
set wr_singlescale
set wr_vecnames
wrdata data/spice-200p-1ns.csv v(cap) v(out)
quit
.endc
.end
